2176-07-07 06:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No overnight events.  Patient stable and doing well.
   Allergies:
   Naprosyn (Oral) (Naproxen)
   gi upset;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-7-7**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.1
   HR: 46 (42 - 57) bpm
   BP: 127/40(61) {100/33(53) - 135/48(189)} mmHg
   RR: 17 (16 - 23) insp/min
   SpO2: 97%
   Heart rhythm: 2nd AV M2 (Second degree AV Block - Mobitz 2)
                  Total In:
                                                                    240 mL
                  PO:
                                                                    240 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                     50 mL
                                                                    300 mL
   Urine:
                                                                     50 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    190 mL
                                                                   -300 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ////
   Physical Examination
   VS: T= 98.1 BP= 122/57 HR= 81 RR= 20 O2 sat= 98% on 4L
   GENERAL: in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP not visible above clavicle
   CARDIAC: Bradycardic, regular, loud harsh systolic murmur w/ no S2.
   LUNGS: Mild kyphosis. Resp were unlabored, no accessory muscle use.
   Crackles 2/3 up lungs bilaterally.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+  DP 1+ PT dopplerable
   Left: Carotid 2+  DP 1+ PT dopplerable
   Labs / Radiology
   CBC
 9.8, Hb 13.5, Hct 41.4, plt 228
   Chem 7
 143, 3.8, Cl 105, bicarb 27, BUN 28, Cr 1.2, glu 109
   Assessment and Plan
   83 yo F w/ critical AS (valve area < 0.8) plan AVR Tuesday w/
   incidental asymptomatic high grade AV block, likely infra-his block.
   .
   # RHYTHM: High grade AV block w/ relatively fast but unreliable
   junctional escape rhythm. Pt. asymptomatic. Conducts better with slower
   rate so if having increased block would give metoprolol instead of
   atropine.
   - give metoprolol if >3 consecutive p waves w/o a QRS, then call EP for
   temp wire
   - Keep pacer pads on
   - Monitor in CCU
   - Holding atenolol for now
   .
   # PUMP: Critical AS w/ valve area of 0.5cm and [**Age over 90 **]m/s flow. Csurg
   planning for AVR on teusday. Crackles 2/3 up lungs, but pt.
   asymptomatic. Will wean O2 as tolerated
   - Gentle diuresis
   - Carotid u/s, dental cs on monday
   - gentle diuresis goal negative 500cc
   - Anesthesia cs monday
   .
   # CORONARIES:  No e/o CAD
   - continue ASA given Hx of TIA
   - lipid panel, consider d/c simvastatin
   .
   #? Hx of TIA
   - Simvastatin
   - ASA 81mg
   .
   FEN:  Regular diet low sodium, heart healthy. NPO p MN Sunday and
   Monday.
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with Heparin SC
   -Pain management with  Tylenol
   -Bowel regimen with  colace/senna
   .
   CODE: Confirmed full though pt. would not like to be kept on life
   support for prolonged period.
   .
   COMM: Daughter (HCP) [**Name (NI) 96**] [**Name (NI) 9319**] [**Telephone/Fax (1) 9320**] Home, [**Telephone/Fax (1) 9321**]
   cell
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2176-7-6**] 06:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Attending
s Note.
   Reviewed dat and reason for transfer to CCU.
   Agree with Dr.[**Last Name (STitle) 8445**]
s note.Examined Pt.For temp pacing on [**2176-7-8**] and
   AVR on [**2176-7-9**]
   Spent 45 mins on case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2176-7-7**] 10:31 ------

2176-07-08 00:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient had no concerns/complaints, no angina or dyspnea.  She feels
   at her baseline this morning.
   Allergies:
   Naprosyn (Oral) (Naproxen)
   gi upset;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2176-7-7**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-7-8**] 12:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98
   HR: 75 (42 - 88) bpm
   BP: 112/50(65) {95/33(53) - 140/85(189)} mmHg
   RR: 16 (12 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    300 mL
                  PO:
                                                                    300 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                      0 mL
   Urine:
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -900 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   VS: T= 98.1 BP= 122/57 HR= 81 RR= 20 O2 sat= 98% on 4L
   GENERAL: in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP not visible above clavicle
   CARDIAC: Bradycardic, regular, loud harsh systolic murmur w/ no S2.
   LUNGS: Mild kyphosis. Resp were unlabored, no accessory muscle use.
   Crackles 2/3 up lungs bilaterally.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+  DP 1+ PT dopplerable
   Left: Carotid 2+  DP 1+ PT dopplerable
   Labs / Radiology
   228 K/uL
   13.5 g/dL
   109 mg/dL
   1.2 mg/dL
   27 mEq/L
   3.8 mEq/L
   28 mg/dL
   105 mEq/L
   143 mEq/L
   41.4 %
   9.8 K/uL
        [image002.jpg]
                             [**2176-7-7**]  05:43 AM
   WBC
   9.8
   Hct
   41.4
   Plt
   228
   Cr
   1.2
   Glucose
   109
   Other labs: PT / PTT / INR:12.6/25.9/1.1
   Assessment and Plan
 ATRIOVENTRICULAR (AV) BLOCK
 AORTIC STENOSIS
   83 yo F w/ critical AS (valve area < 0.8) plan AVR Tuesday w/
   incidental high grade AV block, likely infra-his block.
   .
   # RHYTHM: High grade AV block w/ relatively fast but unreliable
   junctional escape rhythm. Pt. asymptomatic. Conducts better with slower
   rate so if having increased block would give metoprolol instead of
   atropine.
   - no arrhythmias/blocks overnight
   - give metoprolol if >3 consecutive p waves w/o a QRS
   - temporary pacer today, for AVR tomorrow
   - Keep pacer pads on
   - Monitor in CCU
   - Holding atenolol for now
   .
   # PUMP: Critical AS w/ valve area of 0.5cm and [**Age over 90 **]m/s flow. Csurg
   planning for AVR on teusday. Crackles 2/3 up lungs, but pt.
   asymptomatic. Will wean O2 as tolerated
   - Gentle diuresis
   - Carotid u/s, dental cs on monday
   - gentle diuresis goal negative 500cc
   - Anesthesia cs monday
   .
   # CORONARIES:  No e/o CAD
   - continue ASA given Hx of TIA
   - lipid panel, simvastatin for hx TIA
   .
   #? Hx of TIA
   - Simvastatin
   - ASA 81mg
   .
   FEN:  Regular diet low sodium, heart healthy. NPO for procedure today
   and tomorrow.
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with Heparin SC
   -Pain management with  Tylenol
   -Bowel regimen with  colace/senna
   .
   CODE: Confirmed full though pt. would not like to be kept on life
   support for prolonged period.
   .
   COMM: Daughter (HCP) [**Name (NI) 96**] [**Name (NI) 9319**] [**Telephone/Fax (1) 9320**] Home, [**Telephone/Fax (1) 9321**]
   cell
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2176-7-7**] 04:00 PM
   Prophylaxis:
   DVT: heparin SQ
   Bowel: colace, senna
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU for now
   ------ Protected Section ------
   Attendings note.
   Agree with Dr.[**Last Name (STitle) 8445**]
s notes.I reviewed data and examined Pt.
   Has intermittent  multilevel AV block,and will require Temp pacing pre
   op
   Spent 45 mins on case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2176-7-9**] 10:07 ------